US04740620
2-Methyl-6-isopropyl aniline was prepared by the method of Example 2 using an H-Y zeolite catalyst for the condensation of aniline and propylene. The ortho-toluidine and propylene were fed to the reactor in a 1:5 molar ratio and at an LHSV of 0.25 based on o-toluidine. The reaction was conducted at 250° C. and 861 psig. The effluent product stream was analyzed by gas chromatography. Conversion of o-toluidine was 81.5%.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | propylene | C=CC | C3H6
reactant | ortho-toluidine | NC=1C(=CC=CC1)C | C7H9N
product | 2-Methyl-6-isopropyl aniline | CC1=C(N)C(=CC=C1)C(C)C | C10H15N
